US06355799B1
Preparation of 3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-5)
3-(4Chloro-6-fluoro-3-methoxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (9 g, 23.5 mmol) was dissolved in dimethylformamide (90 ml) and to this were added potassium carbonate (3.9 g, 28.2 mmol) and dimethylsulfate (10.2 g, 47 mmol) with stirring. The solution was stirred at ambient temperature for 12 hr and water was added. Product was extracted in ethyl acetate and the organic layer was washed with water and dried over anhydrous sodium sulfate. Removal of the solvent afforded a crude product which was purified by column chromatography on silica gel. Elution of the column with methylene chloride afforded the title compound (7.8 g).

reactant | 3-(4Chloro-6-fluoro-3-methoxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 23.5 mmol, 9 g | ClC1=C(C(=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-])OC | C12H6ClF4N3O5
reactant | potassium carbonate | 28.2 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 47 mmol, 10.2 g | COS(=O)(=O)OC | C2H6O4S
reactant | water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 7.8 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-])OC | C13H8ClF4N3O5
